* design - only spice components

** Inverted Random Ramp (Kareem Version) -------------------

.subckt ramp_generator_init_k vref vini vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern2
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx ramp 20p m=1

    ; pull vx low for reset
    xrinitlo vx   reset gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

    ; pull ramp to vini (weak pull-up)
    xrinithi vini reset ramp gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

** Inverted Random Ramp (Ceyda version) --------------------
* includes voltage source which is not practically feasible

.subckt ramp_generator_init_c vref vini vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern2
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx vc 20p m=1
    V1 net3 net4 1
    vim vc ramp 0

    XM2 net3 reset ramp gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
    + as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
    + nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
    XM3 net4 reset vx gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

** Positive Random Ramp ------------------------------------

.subckt ramp_generator vref vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx vc 20p m=1
    vim ramp vc 0

    XMR ramp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

** Ramp Generator with Fixed Slope -------------------------

.subckt ramp_generator_fixed vref out vdd gnd reset c=20p r=12.7Meg
   C1  vx   out  {c} m=1
   R1  vref vx   {r} m=1
   XMR out  reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
   + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
   + sa=0 sb=0 sd=0 mult=1 m=1
   xopamp vdd vx gnd out gnd opamp
.ends

** Resistive ladder for configurable ramp_generators -------

.subckt rladdern va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt rladdern2 va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb v4 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb v3 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb v2 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb v1 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb v0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt rladderp va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends


