* wrappers and design-only spice components

** Ramp Generators =========================================

* Ramp Generator with Fixed Slope
.subckt ramp_generator_fixed vref out vdd gnd reset c=20p r=12.7Meg
    C1  vx   out  {c} m=1
    R1  vref vx   {r} m=1
    XMR out  reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    xopamp vdd vx gnd out gnd opamp
.ends

* Positive Random Ramp
.subckt ramp_generator vref vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx vc 20p m=1
    vim ramp vc 0

    XMR ramp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

* Inverted Random Ramp (Kareem Version)
.subckt ramp_generator_init_k vref vini vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern2
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx ramp 20p m=1

    ; pull vx low for reset
    xrinitlo vx   reset gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

    ; pull ramp to vini (weak pull-up)
    xrinithi vini reset ramp gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

* IDAC Positive Random Ramp
.subckt ramp_generator_idac iref vini b0 b1 b2 b3 b4 ramp vdd gnd reset c=20p
    xinv0 b0 vss vss vddd vddd b0i sky130_fd_sc_hs__inv_1
    xinv1 b1 vss vss vddd vddd b1i sky130_fd_sc_hs__inv_1
    xinv2 b2 vss vss vddd vddd b2i sky130_fd_sc_hs__inv_1
    xinv3 b3 vss vss vddd vddd b3i sky130_fd_sc_hs__inv_1
    xinv4 b4 vss vss vddd vddd b4i sky130_fd_sc_hs__inv_1
    xidac b0 b1 b2 b3 b4 b0i b1i b2i b3i b4i vx vx_ign iref vdd gnd idac

    xopamp vdd vx gnd ramp gnd opamp
    C1 vx ramp {c} m=1

    ; short cap
    xm1 ramp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

    ; set vx
    xm2 vini reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

.ends

* IDAC Negative Random Ramp
.subckt ramp_generator_idaci iref vini b0 b1 b2 b3 b4 ramp vdd gnd reset c=20p
    xinv0 b0 vss vss vddd vddd b0i sky130_fd_sc_hs__inv_1
    xinv1 b1 vss vss vddd vddd b1i sky130_fd_sc_hs__inv_1
    xinv2 b2 vss vss vddd vddd b2i sky130_fd_sc_hs__inv_1
    xinv3 b3 vss vss vddd vddd b3i sky130_fd_sc_hs__inv_1
    xinv4 b4 vss vss vddd vddd b4i sky130_fd_sc_hs__inv_1
    xidac b0 b1 b2 b3 b4 b0i b1i b2i b3i b4i vx_ign vx iref vdd gnd

    xopamp vdd vx gnd ramp gnd opamp
    C1 vx ramp {c} m=1

    ; short cap
    XMR ramp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

    ; set vx
    XMR vini reset vx vx sky130_fd_pr__pfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1

.ends



** Comparator Wrappers =====================================

.subckt comparator_wrap_mismatch inp inn clk outp outn vdd gnd mismatch=1m
    vmis  inn inn_m {mismatch}
    xcomp inp inn_m clk outp outn vdd gnd comparator_wrap
.ends

.subckt comparator_wrap inp inn clk outp outn vdd gnd
    iref  irf gnd 10u
    xcomp vdd inp clk outp inn outn irf gnd comparator
.ends

.subckt comparator vdd inp ck outp inn outn iref vss
    x1 vdd ck outp outn net1 net2 vss latch
    x2 vdd inp inn net1 net2 iref vss preamp
.ends


** Resistive ladders =======================================

.subckt rladdern va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb vb sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt rladdern2 va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb v4 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb v3 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb v2 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb v1 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb v0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt rladderp va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends


